US09145387B2
To a solution of (S)-tert-butyl 3-(4-(2-acrylamidophenylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)piperidine-1-carboxylate (3 g) in DCM (30 ml) was added trifluoroacetic acid (5 ml) at 0° C. for 10 min and stirred at rt for 2 h. TLC showed completion of starting material. (TLC system: 15% methanol in dichloromethane, Rf=0.2). The reaction mixture was concentrated, and the crude was co-distilled with DCM (3×20 mL) and washed with diethyl ether (2×10 mL) to obtain (S)—N-(2-(2-(piperidin-3-ylamino)-5-(trifluoromethyl) pyrimidin-4-ylamino)phenyl)acrylamide as an off white solid. (3 g, 97%). MS: m/z=407.1 (ES+, M+H).

reactant | (S)-tert-butyl 3-(4-(2-acrylamidophenylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)piperidine-1-carboxylate | 3 g | C(C=C)(=O)NC1=C(C=CC=C1)NC1=NC(=NC=C1C(F)(F)F)N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C24H29F3N6O3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methanol | CO | CH4O
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)—N-(2-(2-(piperidin-3-ylamino)-5-(trifluoromethyl) pyrimidin-4-ylamino)phenyl)acrylamide | N1C[C@H](CCC1)NC1=NC=C(C(=N1)NC1=C(C=CC=C1)NC(C=C)=O)C(F)(F)F | C19H21F3N6O
